Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.743493107419
[H:1].[O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.65429327466
[H:1][O:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.7874941400480001
[H:12].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.05412649129
[C:3]#[C:4][C:5][O:6][H:7].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7],-2.7252690862299995
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[O:10][H:11].[H:6],4.998853250530001
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12][H:13],5.00006340471
[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.97289672448
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-3.91758006434
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12],-7.96631341954
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.83489623256
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:4],1.75888724092
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.95659639056
[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[O:2],0.91525219538
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.1853222476400003
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],1.84589484251
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.30394918271
[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.28904320512
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[O:12],4.559652680909999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.5531179994
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])[H:12],-4.8878651095
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[H:9],1.93848324972
[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.872117276609
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],2.71801064875
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.59664376427
[H:1][C:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.66989989828
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],7.25400541101
[C:3]=[C:4]([O:5][H:6])[O:7][H:8].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8],-9.31816356462
[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.49047343544
